US07846959B2
To a solution of 2-[(4-hydroxy-3-nitrophenyl)carbonyl]benzoic acid (9.7 g, 30 mmol) in DMF (100 mL) was added cesium carbonate (9.8 g, 30 mmol) and benzyl bromide (3.6 mL, 30 mmol). The reaction mixture was stirred at rt for 4 h. Water, 10% citric acid, and ethyl acetate were added, and then the phases were partitioned. The aqueous phase was extracted with ethyl acetate. The organic extracts were combined, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (50% hexanes:50% ethyl acetate). The product-containing fractions were combined and concentrated. Impurities were removed from the solid residue by trituration with ether. The desired phenylmethyl 2-[(4-hydroxy-3-nitrophenyl)carbonyl]benzoate was obtained as powdery yellow solid (6.17 g, 16.3 mmol, 54% yield. 1H NMR (400 MHz, CDCl3): 10.89 (s, 1H), 8.25 (d, 1H), 8.16 (dd, 1H), 7.91 (dd, 1H), 7.69 (m, 1H), 7.62 (m, 1H), 7.35 (m, 1H), 7.27-7.23 (m, 3H), 7.20-7.17 (m, 2H), 7.10 (d, 1H), 5.13 (s, 2H); MS (EI) for C21H15NO6: 400 (MNa+).

reactant | 2-[(4-hydroxy-3-nitrophenyl)carbonyl]benzoic acid | 30 mmol, 9.7 g | OC1=C(C=C(C=C1)C(=O)C1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C14H9NO6
reactant | cesium carbonate | 30 mmol, 9.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 30 mmol, 3.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | phenylmethyl 2-[(4-hydroxy-3-nitrophenyl)carbonyl]benzoate | 54% yield | OC1=C(C=C(C=C1)C(=O)C1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1)[N+](=O)[O-] | C21H15NO6
